US08357679B2
1-(4-(3-(Cyclopropylmethyl)ureido)benzoyl)-4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-2-carboxylic acid
Methyl 1-(4-(3-(cyclopropylmethyl)ureido)benzoyl)-4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-2-carboxylate (0.032 mmol, 0.02 g) and sodium hydroxide (0.032 mmol, 1.298 mg) were combined and heated to 80° C. in methanol (1 mL) for 6 hours in a reactivial. The reaction mixture was concentrated under reduced pressure. The resulting residue was passed down an SCX column to afford the title compound (16 mg). MS (ESI) m/z 603.2 [M+H]+

reactant | Methyl 1-(4-(3-(cyclopropylmethyl)ureido)benzoyl)-4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-2-carboxylate | 0.032 mmol, 0.02 g | C1(CC1)CNC(NC1=CC=C(C(=O)N2C(CN(CC2)CC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)O)C(=O)OC)C=C1)=O | C28H30F6N4O5
reactant | sodium hydroxide | 0.032 mmol, 1.298 mg | [OH-].[Na+]
solvent | methanol | 1 mL | CO | CH4O
product | 1-(4-(3-(Cyclopropylmethyl)ureido)benzoyl)-4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-2-carboxylic acid | 16 mg | C1(CC1)CNC(NC1=CC=C(C(=O)N2C(CN(CC2)CC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)O)C(=O)O)C=C1)=O | C27H28F6N4O5
